US06329546B1
Synthesis of (E) 3-(2-aminophenyl)-2-methyl-2-propenoic acid
Into 10 ml of tetrahydrofuran (THF), 1.50 g (7.31 mmol) of (E) ethyl 3-(2-aminophenyl)-2-methyl-2-propenate were dissolved; and, with 10 ml of a 1-N aqueous sodium hydroxide solution being added thereto, the mixture was reacted at 40° C. for 4 hours. After the completion of the reaction was verified by TLC, the mixture was cooled with 10 ml of 1-N hydrochloric acid being added thereto. The precipitated crystal was filtered out, whereby 1.30 g of the aimed compound were obtained (quantitatively).

reactant | ethyl 3-(2-aminophenyl)-2-methyl-2-propenate | NC1=C(C=CC=C1)C=C(C(=O)OCC)C | C12H15NO2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-aminophenyl)-2-methyl-2-propenoic acid | 1.30 g | NC1=C(C=CC=C1)C=C(C(=O)O)C | C10H11NO2
